US07642270B2
8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (20.5 mg, 0.050 mmol) and 1-[4-(4-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone di-TFA salt (24 mg g, 0.050 mmol) were combined in i-PrOH (1 mL) and TEA (10.6 mg, 0.11 mmol) was added and the mixture was heated to 90° C. After 3 h, the reaction mixture was concentrated and purified by preparative HPLC (30 mL/min 5-100% MeCN/1120 gradient over 10 min) and lyophilized to provide 24 mg (80%) of 2-{4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenylamino}-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H NMR (300 MHz, CDCl3) δ (ppm): 9.31 (s, 1H), 9.10 (br s, 1H), 8.48 (s, 1H), 7.51 (d, 2H, J=8.1 Hz), 7.22-7.34 (2H), 7.13-7.16 (m 3H), 4.38 (q, 2H, J=7.0 Hz), 3.09 (br s, 2H), 2.95-3.02 (m, 6H), 2.71-2.80 (m, 2H), 2.39 (s, 6H), 2.11-2.22 (m, 2H), 1.55-1.93 (m, 4H), 1.39 (t, 3H, J=7.2 Hz).

reactant | 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.050 mmol, 20.5 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
reactant | 1-[4-(4-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone di-TFA salt | 0.050 mmol, 24 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.NC1=CC=C(C=C1)C1CCN(CC1)C(CN(C)C)=O
solvent | i-PrOH | 1 mL | CC(C)O | C3H8O
product | 2-{4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenylamino}-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 24 mg, 80% | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)C2CCN(CC2)C(CN(C)C)=O)N(C1)C=1C=C2CCCC2=CC1)=O | C34H38N6O4
